US03954732
Acetic acid (1 ml) and zinc powder (0.80 g) were added to a solution of 2,2,2-trichloroethyl 2-piperidinothiocarbonylthiomethyl-2-methyl- 6-(2-phenylacetamido)penam-3-carboxylate (0.95 g) in dimethylformamide (5 ml) under ice-cooling and the mixture was stirred for 1 hour and 40 minutes. After the reaction, zinc powder was filtered off and the filtrate was poured into ethyl acetate. The solution was washed with 3% hydrochloric acid and then with water (four times) and dried over magnesium sulfate. After drying, the solvent was distilled off and the residue was dissolved in a small amount of methanol. To this solution was added an aqueous solution of N,N'-dibenzylethylenediamine diacetate and precipitates were collected by filtration, washed with water to give N,N'-dibenzylethylenediamine 2-piperidinothiocarbonylthiomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate (0.30 g), mp. 100°C (dec.).

reactant | Acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | 2,2,2-trichloroethyl 2-piperidinothiocarbonylthiomethyl-2-methyl- 6-(2-phenylacetamido)penam-3-carboxylate | 0.95 g | N1(CCCCC1)C(=S)SCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C24H28Cl3N3O4S3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 0.80 g | [Zn] | Zn
product | N,N'-dibenzylethylenediamine 2-piperidinothiocarbonylthiomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate | 0.30 g | N1(CCCCC1)C(=S)SCC1(S[C@H]2N(C1C(=O)O)C(C2NC(CC2=CC=CC=C2)=O)=O)C.C(C2=CC=CC=C2)NCCNCC2=CC=CC=C2 | InChI=1S/C22H27N3O4S3.C16H20N2/c1-22(13-31-21(30)24-10-6-3-7-11-24)17(20(28)29)25-18(27)16(19(25)32-22)23-15(26)12-14-8-4-2-5-9-14;1-3-7-15(8-4-1)13-17-11-12-18-14-16-9-5-2-6-10-16/h2,4-5,8-9,16-17,19H,3,6-7,10-13H2,1H3,(H,23,26)(H,28,29);1-10,17-18H,11-14H2/t16?,17?,19-,22?;/m1./s1
